US06410550B1
B) 4-Acetyl-10-aza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-triene-10-carboxylic acid tert-butyl ester
1-(4-Acetyl-10-aza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-trien-10-yl)-2,2,2-trifluoro-ethanone (1.3 g, 4.37 mmol) and 37% aqueous NH4OH solution (10 mL) were stirred in MeOH (30 ml) for 3 hours, then concentrated and azeotroped with MeOH (2×50 mL). (This product could be converted to an HCl salt directly: see the next example.) The resulting product was stirred in 1,4-dioxane (20 mL) and treated with saturated aqueous Na2CO3 solution (5 mL). To this was added di-t-butyldicarbonate (1.91 g, 8.74 mmol). After stirring 2 hours, the reaction was treated with H2O (50 mL), extracted with CH2Cl2 (4×30 mL), dried (Na2SO4), filtered, concentrated and chromatographed to provide an oil (1.3 g, 100%). (TLC 40% EtOAc/hexanes Rf 0.56).

reactant | 1-(4-Acetyl-10-aza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-trien-10-yl)-2,2,2-trifluoro-ethanone | 4.37 mmol, 1.3 g | C(C)(=O)C1=CC=2C3CN(CC(C2C=C1)C3)C(C(F)(F)F)=O | C15H14F3NO2
reactant | NH4OH | 10 mL | [NH4+].[OH-]
reactant | di-t-butyldicarbonate | 8.74 mmol, 1.91 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | H2O | 50 mL | O | H2O
solvent | MeOH | 30 ml | CO | CH4O
product | 4-Acetyl-10-aza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-triene-10-carboxylic acid tert-butyl ester | 1.3 g, 100% | C(C)(C)(C)OC(=O)N1CC2C=3C=CC(=CC3C(C1)C2)C(C)=O | C18H23NO3
